US04088770
Benzoyl chloride (140.5 g., 1.0 mole) was added dropwise with stirring to a solution of p-chloro-m-(trifluoromethyl)aniline (181.5 g., 1.0 mole) and pyridine (79 g., 1.0 mole) in two liters of dry benzene. Although the reaction was heated initially, the addition of benzoyl chloride generated sufficient heat to maintain reflux conditions during the addition. The reaction mixture was stirred overnight at room temperature and then was heated under reflux for 2 hours. After being cooled to about 25° C., the reaction product was washed successively with 6 N hydrochloric acid and saturated aqueous sodium bicarbonate solution, was dried over magnesium sulfate and was filtered. The filtrate was evaporated by distillation in vacuo, and the residue was crystallized from a benzene-hexane solvent to give two grams of 4'-chloro-3'-(trifluoromethyl)benzanilide, having a melting point of 130°-131° C.

reactant | Benzoyl chloride | 1.0 mole, 140.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | p-chloro-m-(trifluoromethyl)aniline | 1.0 mole, 181.5 g | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
reactant | pyridine | 1.0 mole, 79 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | two liters | C1=CC=CC=C1 | C6H6
product | 4'-chloro-3'-(trifluoromethyl)benzanilide | two grams | ClC1=C(C=C(NC(C2=CC=CC=C2)=O)C=C1)C(F)(F)F | C14H9ClF3NO
